US04680412
A mixture of 49.8 parts (0.3 mole) of 3-fluorophthalic anhydride and 9.9 parts (0.165 mole) of urea in 126 parts of sulfolane is heated at 125°-130° C., while stirring. The mixture is stirred for 30 minutes, when the evolution of carbon dioxide is complete, after which stirring is continued for a further 15 minutes at 168° C. The solvent is distilled off (98 parts) at a bath temperature of 130°-160° C. under 0.3 mbar. A gas chromatogram shows that it contains 2.75 parts of 3-fluorophthalimide. The distillation residue is triturated with water, and the product is filtered off under suction, washed and dried, 44.5 parts of 3-fluorophthalimide of melting point 179°-182° C. being obtained. The total yield is 47.25 parts (95.3% of theory) of 3-fluorophthalimide.

reactant | 3-fluorophthalic anhydride | 0.3 mole | FC1=C2C(C(=O)OC2=O)=CC=C1 | C8H3FO3
reactant | urea | 0.165 mole | NC(=O)N | CH4N2O
reactant | sulfolane | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | carbon dioxide | C(=O)=O | CO2
product | 3-fluorophthalimide | FC1=C2C(C(=O)NC2=O)=CC=C1 | C8H4FNO2
